* NGSpice simulation io pin

.subckt pin 1
.param state=0

.if (state == 0)
Rxxx 1 0 1e12
.elseif (state == 1)
Vxxx 1 0 0
.elseif (state == 2)
Vxxx 1 0 5
.endif

.ends pin
